US06165944
1.44 g (60 mmol) of sodium hydride and 10.40 g (60 mmol) of benzyl bromide were added a little at a time to a solution of 6.00 g (15 mmol) of 4-[2-chloro-3-(4,5-dihydroisoxazol-3-yl)-4-methylsulfonylbenzoyl]-1-ethyl-5-hydroxy-1H-pyrazole in 300 ml of dry dioxane. The mixture was stirred under reflux for 24 hours, the solvent was removed under reduced pressure and the residue was taken up in dichloromethane and washed three times with water. The organic phase was dried and concentrated and the residue was chromatographed over silica gel (eluent: N-pentane/ethyl acetate). 1.5 g (20% of theory) of 5-benzyloxy-4-[2-chloro-3-(4,5-dihydroisoxazol-3-yl)-4-methylsulfonylbenzoyl]-1-ethyl-1H-pyrazole were obtained (mp.: 70-75° C.).

reactant | sodium hydride | 60 mmol, 1.44 g | [H-].[Na+]
reactant | benzyl bromide | 60 mmol, 10.40 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 4-[2-chloro-3-(4,5-dihydroisoxazol-3-yl)-4-methylsulfonylbenzoyl]-1-ethyl-5-hydroxy-1H-pyrazole | 15 mmol, 6.00 g | ClC1=C(C(=O)C=2C=NN(C2O)CC)C=CC(=C1C1=NOCC1)S(=O)(=O)C | C16H16ClN3O5S
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
product | 5-benzyloxy-4-[2-chloro-3-(4,5-dihydroisoxazol-3-yl)-4-methylsulfonylbenzoyl]-1-ethyl-1H-pyrazole | 1.5 g, 20% | C(C1=CC=CC=C1)OC1=C(C=NN1CC)C(C1=C(C(=C(C=C1)S(=O)(=O)C)C1=NOCC1)Cl)=O | C23H22ClN3O5S
